US07871982B2
(i) 4-Bromo-3′-aminobiphenyl
1,4-Dibromobenzene (311 mg, 1.3 mmol) and 201 mg (1.3 mmol) of 3-aminophenylboronic acid were dissolved in 17 ml of N,N-dimethylformamide and 4.2 ml of water. Tetrakistriphenylphosphine palladium (154 mg, 0.13 mmol) and 211 mg (2.0 mmol) of sodium carbonate were added to the solution, and the mixture was stirred at 80° C. for 3 hr. Ethyl acetate (60 ml) and 8.5 ml of water were added to the reaction solution, and the mixture was filtered through Celite. The organic layer as the filtrate was washed five times with 30 ml of water. The organic layer was dried over anhydrous sodium sulfate and was filtered. The solvent was then removed by distillation. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=5:1) to give 182 mg (yield 57%) of the title compound.

reactant | 1,4-Dibromobenzene | 1.3 mmol, 311 mg | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | 3-aminophenylboronic acid | 1.3 mmol, 201 mg | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | sodium carbonate | 2.0 mmol, 211 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
solvent | water | 4.2 ml | O | H2O
solvent | water | 8.5 ml | O | H2O
product | 4-Bromo-3′-aminobiphenyl | 182 mg, yield 57% | BrC1=CC=C(C=C1)C1=CC(=CC=C1)N | C12H10BrN
